US07244744B2
To a solution of 4-(2-keto-1-benzimidazolinyl)piperidine (1.3 g; 5.98 mmol) in acetonitrile was added diphenyl N-cyanocarbonimidate (1.56 g; 6.55 mmol; 1.1 equiv). The reaction mixture was stirred at 60° C. for 48 h under nitrogen atmosphere and then concentrated under reduced pressure. The crude product was suspended in ethyl acetate (50 mL) and a saturated aqueous solution of sodium bicarbonate (50 mL) and stirred overnight at room temperature. The solid was collected by filtration and dried to give N-cyano-4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboximidic acid phenyl ester (1.85 g; 85%) as a white solid.

reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 5.98 mmol, 1.3 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | diphenyl N-cyanocarbonimidate | 6.55 mmol, 1.56 g, 1.1 equiv | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-cyano-4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboximidic acid phenyl ester | 1.85 g, 85% | C1(=CC=CC=C1)OC(=NC#N)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C20H19N5O2
